US05610144
0.5 g of hydroxylamine hydrochloride in solution in 6 cm3 of water is added to a solution of 3 g of tert-butyl (2RS,5SR)-1-{2-[3-(3-acetylphenyl)ureido]acetyl}-5-phenylprolinate in 12 cm3 of methanol and 6 cm3 of pyridine. The reaction mixture is heated under reflux for 2 hours. After evaporation of the solvents under reduced pressure at a temperature in the vicinity of 45° C., the residue is taken up in 100 cm3 of ethyl acetate and the organic phase is washed with 3 times 50 cm3 of water, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure. The crude product obtained is purified by chromatography on silica [eluent: dichloromethane/methanol (95/5 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at a temperature in the vicinity of 40° C. After recrystallization in acetonitrile, 1.1 g of tert-butyl (E)-(2RS,5SR)-1-{2-{3-[3-(1-hydroxyiminoethyl)phenyl]ureido}acetyl}-5-phenylprolinate, melting at 118° C., are obtained.

reactant | hydroxylamine hydrochloride | 0.5 g | Cl.NO
reactant | tert-butyl (2RS,5SR)-1-{2-[3-(3-acetylphenyl)ureido]acetyl}-5-phenylprolinate | 3 g | C(C)(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=CC=CC=C1)=O | C26H31N3O5
solvent | water | 6 cm3 | O | H2O
solvent | methanol | 12 cm3 | CO | CH4O
solvent | pyridine | 6 cm3 | N1=CC=CC=C1 | C5H5N
product | tert-butyl (E)-(2RS,5SR)-1-{2-{3-[3-(1-hydroxyiminoethyl)phenyl]ureido}acetyl}-5-phenylprolinate | 1.1 g | O\N=C(/C)\C=1C=C(C=CC1)NC(NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=CC=CC=C1)=O | C26H32N4O5
